US07368578B2
A mixture of methyl 5-formyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate (4.88 g), tetramethyltin (10.8 g), tetrakis(triphenylphosphine)palladium (1.85 g) and toluene (150 mL) was heated under reflux for 20 hrs. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography to give methyl 5-formyl-2-methylbenzoate as colorless crystals (2.31 g, yield 83%) from a fraction eluted with ethyl acetate-hexane (1:8, v/v). Recrystallization from diethyl ether-hexane gave colorless prism crystals. melting point: 60-61° C.

reactant | methyl 5-formyl-2-{[(trifluoromethyl)sulfonyl]oxy}benzoate | 4.88 g | C(=O)C=1C=CC(=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F | C10H7F3O6S
reactant | tetramethyltin | 10.8 g | C[Sn](C)(C)C
catalyst | tetrakis(triphenylphosphine)palladium | 1.85 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 5-formyl-2-methylbenzoate | 2.31 g, yield 83% | C(=O)C=1C=CC(=C(C(=O)OC)C1)C | C10H10O3
